US06455528B1
(3) Synthesis of 1-Acetyl-4-(4-fluoro-2-hydroxyphenyl)piperazine
To a solution of 1-acetyl-4-(2-amino-4-fluorophenyl)piperazine (25 g) and conc. sulfuric acid (42 ml) in water (210 ml) was added dropwise a solution of sodium nitrite (13 g) in water (46 ml) under ice-cooling. This reaction mixture was stirred at the same temperature for 4 hr and at room temperature for 6 hr. To the reaction mixture was added an aqueous sodium hydroxide solution to make it alkaline and acetyl chloride was added dropwise. The mixture was stirred at the same temperature for 30 min, passed through Celite and extracted with ethyl acetate. The extract was washed with saturated brine and dried over anhydrous magnesium sulfate. The solvent was evaporated to give a black oil. The oil was subjected to silica gel column chromatography (developing solvent; chloroform:methanol=9:1) to give a black solid. This solid was recrystallized from ethyl acetate-isopropyl ether to give the title compound (0.66 g) as a pale-brown solid, m.p.=183-185° C.

reactant | 1-acetyl-4-(2-amino-4-fluorophenyl)piperazine | 25 g | C(C)(=O)N1CCN(CC1)C1=C(C=C(C=C1)F)N | C12H16FN3O
reactant | sulfuric acid | 42 ml | S(O)(O)(=O)=O | H2O4S
reactant | sodium nitrite | 13 g | N(=O)[O-].[Na+]
reactant | sodium hydroxide | [OH-].[Na+]
reactant | acetyl chloride | C(C)(=O)Cl | C2H3ClO
solvent | water | 210 ml | O | H2O
solvent | water | 46 ml | O | H2O
solvent | methanol | CO | CH4O
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 1-Acetyl-4-(4-fluoro-2-hydroxyphenyl)piperazine | 0.66 g | C(C)(=O)N1CCN(CC1)C1=C(C=C(C=C1)F)O | C12H15FN2O2
